US06825191B2
Synthesis of 4-(4-chlorobenzoyl)-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-7-(1H-tetrazol-5-yl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on
26 mg (0.051 mmol) of 4-(4-chlorobenzoyl)-7-cyano-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on was dissolved in 10 ml of toluene. 0.032 ml (0.11 mmol) of tributyltin azide was added to the obtained solution, and they were stirred at 100° C. overnight. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the solvent was evaporated and the obtained crude product was treated in the same manner as in Step 3 in Example 1 to obtain the title compound.

reactant | 4-(4-chlorobenzoyl)-7-cyano-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on | 0.051 mmol, 26 mg | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=C(C=C3)C#N)CC3=CC=C(C=C3)C(=O)N3CC=CC3)=O)C=C1 | C29H23ClN4O3
reactant | tributyltin azide | 0.11 mmol, 0.032 ml | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-chlorobenzoyl)-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-7-(1H-tetrazol-5-yl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=C(C=C3)C3=NN=NN3)CC3=CC=C(C=C3)C(=O)N3CC=CC3)=O)C=C1 | C29H24ClN7O3
